US20010000513A1
To a stirred solution of 4-chloro-2-fluoro-aniline (1.0 mL, 0.0090 mol) in benzene (50 mL) at room temperature under nitrogen was added in one portion neat iso-amyl nitrite (1.7 mL, 0.014 mol), and the mixture was slowly heated until gas evolution was observed (˜70° C.). The heat source was removed and the solution allowed to cool. After 10 minutes at room temperature, the mixture was heated to reflux, refluxed 2 hours and cooled. The solution was rotary evaporated to ˜3 mL and filtered through silica gel (100 g), eluting with hexanes. Fractions containing product were rotary evaporated, and the residue was rechromatographed on silica gel (50 g) eluting with n-hexane (20×50 mL) followed by n-hexane-diethyl ether (9:1, 10×50 mL) to give 0.875 g of 4-chloro-2-fluoro-biphenyl as a clear colorless oil; proton nuclear magnetic resonance spectroscopy (1H-NMR) (CDCl3): δ 7.36-7.53 (m, 6H), 7.18-7.22 (m, 2H).

reactant | 4-chloro-2-fluoro-aniline | 0.0090 mol, 1.0 mL | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | iso-amyl nitrite | 0.014 mol, 1.7 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 4-chloro-2-fluoro-biphenyl | 0.875 g | ClC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8ClF
